US06489344B1
1 mmol of tert-butyl 4-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]piperazinecarboxylate is heated to 60° C. 3M HCl in MeOH for one hour and concentrated in vacuo to obtain [4-(2,4-dichlorophenyl)-5-piperazinylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | tert-butyl 4-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]piperazinecarboxylate | 1 mmol | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1CCN(CC1)C(=O)OC(C)(C)C)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C26H30Cl2N8O4
reactant | HCl | 3M | Cl | ClH
solvent | MeOH | CO | CH4O
product | [4-(2,4-dichlorophenyl)-5-piperazinylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1CCNCC1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C21H22Cl2N8O2
